US05624937
1-[4-(2-Quinolyloxy)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea
2-(4-Aminophenoxy)quinoline (2.4 moles, 0.56 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate (2.4 moles, 0.57 g) were reacted according to procedure C to yield the title compound, 0.8 g. 70%. Mass Spec (FD) 473. Calculated for C23H15ClF3N3OS: C, 58.29; H, 3.19; N, 8.87. Found: C, 58.47; H, 3.48; N, 8.85.

reactant | 2-(4-Aminophenoxy)quinoline | 2.4 moles, 0.56 g | NC1=CC=C(OC2=NC3=CC=CC=C3C=C2)C=C1 | C15H12N2O
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 2.4 moles, 0.57 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 1-[4-(2-Quinolyloxy)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea | N1=C(C=CC2=CC=CC=C12)OC1=CC=C(C=C1)NC(=S)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C23H15ClF3N3OS
